*****************************************************************
* NXP PSMN011-60ML
*
* Polarity N-Channel
* Ratings 60V/1.125000E-002OHMS/60.6060606060606A
*
* Date Created Tue May 28 00:37:12 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN011-60ML DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00810478693447258 TC=0.00481444387493616,1.50140034058173E-05
RBD 9 4 0.00193144873986138 TC=0.00481444387493616,1.50140034058173E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.6949342747476e-09
RG 1 2 1.85636

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	1586.72
+ -1	1342.73
+ -0.5	948.121
+ -0.2	661.251
+ -0.1	653.58
+ 0	487.50244
+ 0.1	356.16448
+ 0.2	355.67692
+ 0.5	295.6758
+ 1	248.65708
+ 2	190.68932
+ 3	166.2224
+ 4	154.87336
+ 5	148.22272
+ 6	143.73792
+ 8	137.58864
+ 10	133.03784
+ 12	129.1236
+ 15	123.90812
+ 16	122.23368
+ 20	116.61152
+ 25	110.86152
+ 30	106.34908



.MODEL MINT NMOS(Vto=2.090009496545 Kp=1.503308e+002 Nfs=370000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=9.1051797126249e-13
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=8.5978072e-10 Tt=1.224e-08)

.ENDS

